US04748240
3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-8-oxa-3-azabicyclo[3.2.1]octane-2,4-dione
Tetrahydrofuran-2,5-dicarboxylic anhydride (1.26 g., 8.8 mmole) and 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine (2.37 g., 8.8 mmole) were combined and stirred for 30 minutes in 200 ml. of methylene chloride. The solvent was removed in vacuum and replaced with 300 ml. of xylene. The mixture as refluxed for 48 hours with water removal via a Dean-Stark trap. After cooling, the mixture was filtered through 75 g. of silica gel and the column rinsed with 5% ethanol/chloroform. The product was concentrated in vacuum and recrystallized from isopropanol with addition of 4N isopropanolic HCl. 0.60 Grams of the title compound was obtained as the monohydrochloride; m.p. 233°-235° C. (d).

reactant | Tetrahydrofuran-2,5-dicarboxylic anhydride | 8.8 mmole, 1.26 g | O1C2CCC1C(=O)OC2=O | C6H6O4
reactant | 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine | 8.8 mmole, 2.37 g | NCCCCN1CCN(CC1)C1=NC(=CN=C1)Cl | C12H20ClN5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-8-oxa-3-azabicyclo[3.2.1]octane-2,4-dione | ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)O2)=O | C18H24ClN5O3
